US07368578B2
To a mixture of (5Z)-5-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methylene)-1,3-thiazolidine-2,4-dione (0.50 g) and N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 0.040 g) at room temperature. After stirring the reaction mixture at room temperature for 30 min, methyl iodide (0.16 g) was added, and the mixture was further stirred at room temperature for 30 hrs. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration to give (5Z)-5-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methylene)-3-methyl-1,3-thiazolidine-2,4-dione as yellow crystals (0.47 g, yield 92%). Recrystallization from tetrahydrofuran-hexane gave yellow prism crystals. melting point: 215-216° C.

reactant | (5Z)-5-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methylene)-1,3-thiazolidine-2,4-dione | 0.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2\C=C/2\C(NC(S2)=O)=O)C2=CC=CC=C2)C=C1)OC)C | C30H24N4O7S
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.040 g | [H-].[Na+]
reactant | methyl iodide | 0.16 g | CI | CH3I
solvent | water | O | H2O
product | (5Z)-5-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}methylene)-3-methyl-1,3-thiazolidine-2,4-dione | 0.47 g, yield 92% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2\C=C/2\C(N(C(S2)=O)C)=O)C2=CC=CC=C2)C=C1)OC)C | C31H26N4O7S
